US05442064
1-tert. Butyloxycarbonyl-4-(4-carboxyphenyl)-piperidine
To 16.4 g of sodium hydroxide in 300 ml of water, 47.5 g of 4-(4-carboxyphenyl)-piperidine-hydrochloride are carefully added. The suspension is diluted with 500 ml of dioxane and 250 ml of water. Then, 54.6 g of di-tert.butylpyrocarbonate are added batch-wise. The mixture is stirred for 16 hours at ambient temperature. The precipitate is suction filtered and the filtrate is partially evaporated under reduced pressure. The precipitate and the remaining aqueous filtrate are combined and diluted with 1 liter of water. The aqueous phase is adjusted to pH 2 with saturated potassium hydrogen sulphate solution and extracted twice with ethyl acetate. The combined ethyl acetate phases are washed with saturated saline solution, dried over sodium sulphate and the solvent is removed under reduced pressure. The crude crystalline product is triturated with a little ethyl acetate, suction filtered and dried. Yield: 54.0 g (90% of theory), Melting point: 172°-174° C. Rf value: 0.73 (silica gel; ethyl acetate/cyclohexane=4:1)

reactant | sodium hydroxide | 16.4 g | [OH-].[Na+]
reactant | 4-(4-carboxyphenyl)-piperidine-hydrochloride | 47.5 g | Cl.C(=O)(O)C1=CC=C(C=C1)C1CCNCC1
reactant | di-tert.butylpyrocarbonate | 54.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 300 ml | O | H2O
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
solvent | water | 250 ml | O | H2O
product | 1-tert. Butyloxycarbonyl-4-(4-carboxyphenyl)-piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(=O)O | C17H23NO4
